US06927222B2
i) 1-[3-(4-Chlorophenoxy)-1-pyrrolidinyl]-3-(5-methoxy-2-nitrophenoxy)-2-propanol
The subtitle compound was prepared in analogy of Example 253 ii) from 2-[(5-methoxy-2-nitrophenoxy)methyl]oxirane (320 mg, 1.6 mmol) and 3-(4-chlorophenoxy)pyrrolidine (365 mg, 1.6 mmol). The crude product was obtained as a yellow oil (580 mg) and was used without further purification.

reactant | 2-[(5-methoxy-2-nitrophenoxy)methyl]oxirane | 1.6 mmol, 320 mg | COC=1C=CC(=C(OCC2OC2)C1)[N+](=O)[O-] | C10H11NO5
reactant | 3-(4-chlorophenoxy)pyrrolidine | 1.6 mmol, 365 mg | ClC1=CC=C(OC2CNCC2)C=C1 | C10H12ClNO
product | 1-[3-(4-Chlorophenoxy)-1-pyrrolidinyl]-3-(5-methoxy-2-nitrophenoxy)-2-propanol | ClC1=CC=C(OC2CN(CC2)CC(COC2=C(C=CC(=C2)OC)[N+](=O)[O-])O)C=C1 | C20H23ClN2O6
